US07465726B2
4-Amino-2-thiazol-5-ylphenol
4-Nitro-2-thiazol-5-ylphenol (100 mg, 0.4 mmol) in methanol (5 mL) was hydrogenated in the presence of 10% Pd/C (80 mg) for 16 h. The reaction mixture was filtered through a Celite pad. The filtrate was concentrated in vacuo to afford the title compound, which was used directly in the next step without purification. 1H-NMR (CD3OD, 400 MHz): δ=7.18 (d, J=8.8 Hz, 1H), 7.39 (dd, J=2.4, 8.8 h z, 1H), 7.91 (d, J=2.8 Hz, 1H), 8.91 (s, 1H), 9.97 (s, 1H). MS (ES+): m/z 193.14 [MH+]. HPLC: tR=0.48 min (ZQ2000, polar—5 min).

reactant | 4-Nitro-2-thiazol-5-ylphenol | 0.4 mmol, 100 mg | [N+](=O)([O-])C1=CC(=C(C=C1)O)C1=CN=CS1 | C9H6N2O3S
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 4-Amino-2-thiazol-5-ylphenol | NC1=CC(=C(C=C1)O)C1=CN=CS1 | C9H8N2OS
